US06251832B1
Ten grams 3,3-dimethylacrylic acid was dissolved in 100 ml absolute ethanol and 0.5 ml concentrated (37% approx.) hydrochloric acid added. The reaction mix was refluxed for 24 to 48 hours with a Dean-Stark trap filled with activated molecular sieves inserted between the reaction vessel and the condenser. After cooling, the solvent was removed by rotary evaporation under reduced pressure at 50° C. to yield 6.3 g of a cloudy, yellow oil (ethyl 3-methyl-2-butenoate.)

reactant | 3,3-dimethylacrylic acid | Ten grams | CC(=CC(=O)O)C | C5H8O2
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 3-methyl-2-butenoate | CC(=CC(=O)OCC)C | C7H12O2
